US07465795B2
4-amino-8-(3-azetidin-1-ylcarbonylphenyl)-N-propyl-cinnoline-3-carboxamide
To a stirred solution of 3-[4-amino-3-(propylcarbamoyl)cinnolin-8-yl]benzoic acid (67 mg, 0.191 mmol) dissolved in anhydrous DMF (2 mL) at ambient temperature under argon was added azetidine (16.4 mg, 0.287 mmol), N-methylmorpholine (29 mg, 0.287 mmol), 1-hydroxybenzotriazole (44 mg, 0.287 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcabodiimide hydrochloride (55 mg, 0.287 mmol). The mixture was stirred at ambient temperature for 19 hours then diluted with water and extracted with ethyl acetate. The residue from the organic extracts was purified by flash chromatography on silica gel eluting with increasingly polar gradient of ethyl acetate in hexanes to afford the title compound (61 mg, 82% yield) as a white solid. 1H NMR (300 MHz, CDCl3) δ 8.54 (br, 1H), 8.03-7.64 (m, 6H), 7.53 (t, J=7.7 Hz, 1H), 4.38 (br, 2H), 4.25 (br, 2H), 3.47 (apparent quartet, J=7.0 Hz, 2H), 2.34 (apparent pentet, J=7.5 Hz, 2H), 1.67 (apparent sextet, J=7.0 Hz, 2H), 1.01 (t, J=7.4 Hz, 3H) MS APCI, m/z=390 (M+H) HPLC 1.70 min.

reactant | 3-[4-amino-3-(propylcarbamoyl)cinnolin-8-yl]benzoic acid | 0.191 mmol, 67 mg | NC1=C(N=NC2=C(C=CC=C12)C=1C=C(C(=O)O)C=CC1)C(NCCC)=O | C19H18N4O3
reactant | azetidine | 0.287 mmol, 16.4 mg | N1CCC1 | C3H7N
reactant | N-methylmorpholine | 0.287 mmol, 29 mg | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole | 0.287 mmol, 44 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-amino-8-(3-azetidin-1-ylcarbonylphenyl)-N-propyl-cinnoline-3-carboxamide | 61 mg, 82% yield | NC1=C(N=NC2=C(C=CC=C12)C1=CC(=CC=C1)C(=O)N1CCC1)C(=O)NCCC | C22H23N5O2
